US09029384B2
To a solution of (S)-2,4-diamino-6-((1-(6-fluoro-3-(3-fluorophenyl)-8-iodo-4-oxo-3,4-dihydroquinazolin-2-yl)ethyl)amino)pyrimidine-5-carbonitrile (560 mg, 1.0 mmol) in NMP (4 mL) was added cuprous cyanide (2.0 mmol, 180 mg) and tetrakis(triphenylphosphine)Pd(0) (0.10 mmol, 120 mg). The mixture was irradiated in microwave reactor at 150° C. for one hour. Purification by flash chromatography (40 g flash silica, 30% EtOAc/Hexanes to 20% MeOH/EtOAc), followed by HPLC eluting with 5%-95% water/acetonitrile (0.1% v/v trifluoroacetic acid) provided (S)-2-(1-((2,6-diamino-5-cyanopyrimidin-4-yl)amino)ethyl)-6-fluoro-3-(3-fluorophenyl)-4-oxo-3,4-dihydroquinazoline-8-carbonitrile as a white solid. 1H NMR (400 MHz, DMSO) δ 8.55 (dd, J=2.8, 8.4 Hz, 1H), 8.20 (dd, J=3.2, 8.0 Hz, 1H), 7.88-7.17 (m, 5H), 5.07 (m, 1H), 1.44 (d, J=6.8 Hz, 3H). ES/MS 460.1 (M+H+);

reactant | (S)-2,4-diamino-6-((1-(6-fluoro-3-(3-fluorophenyl)-8-iodo-4-oxo-3,4-dihydroquinazolin-2-yl)ethyl)amino)pyrimidine-5-carbonitrile | 1.0 mmol, 560 mg | NC1=NC(=C(C(=N1)N)C#N)N[C@@H](C)C1=NC2=C(C=C(C=C2C(N1C1=CC(=CC=C1)F)=O)F)I | C21H15F2IN8O
reactant | NMP | 4 mL | CN1CCCC1=O | C5H9NO
product | (S)-2-(1-((2,6-diamino-5-cyanopyrimidin-4-yl)amino)ethyl)-6-fluoro-3-(3-fluorophenyl)-4-oxo-3,4-dihydroquinazoline-8-carbonitrile | NC1=NC(=C(C(=N1)N[C@@H](C)C1=NC2=C(C=C(C=C2C(N1C1=CC(=CC=C1)F)=O)F)C#N)C#N)N | C22H15F2N9O
